US04616014
A solution of methyl isocyanate (0.92 g) in methylene chloride (3 ml) was added dropwise to a stirred solution of 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (3 g) in methylene chloride (20 ml) at room temperature. The reaction mixture was diluted with diisopropyl ether (30 ml). The resultant precipitates were collected by filtration to give a solid of 5-methyl-3-(4-methylsemicarbazido)-6-phenyl-1,2,4-triazine (3.8 g).

reactant | methyl isocyanate | 0.92 g | CN=C=O | C2H3NO
reactant | 3-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 3 g | N(N)C=1N=NC(=C(N1)C)C1=CC=CC=C1 | C10H11N5
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
product | 5-methyl-3-(4-methylsemicarbazido)-6-phenyl-1,2,4-triazine | 3.8 g | CC=1N=C(N=NC1C1=CC=CC=C1)NNC(=O)NC | C12H14N6O
